US08084395B2
A mixture of p-toluenesulfonic acid (10 mg), 2-(4-Fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethanone (200 mg, 0.76 mmoles) and 3-amino-2-chloropyridine (90 mg, 0.7 mmoles) in 3 mL of toluene was refluxed overnight with a Dean-Stark removal of water/toluene azeotrope. The reaction mixture was further concentrated, the brown residue suspended in an ethyl acetate/hexane mixture (9/1) and filtered. The solid was solubilised in ethyl acetate and purified by chromatography on silica gel (ethylacetate/hexane 1/1) to give 130 mg of (2-Chloro-pyridin-3-yl)-[2-(4-fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethylidene]-amine as a brown oil.

reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-(4-Fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethanone | 0.76 mmoles, 200 mg | FC1=CC=C(C=C1)CC(=O)C1=NC(=NC=C1)SC | C13H11FN2OS
reactant | 3-amino-2-chloropyridine | 0.7 mmoles, 90 mg | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | water toluene | O.C1(=CC=CC=C1)C
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (2-Chloro-pyridin-3-yl)-[2-(4-fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethylidene]-amine | 130 mg | ClC1=NC=CC=C1N=C(CC1=CC=C(C=C1)F)C1=NC(=NC=C1)SC | C18H14ClFN4S
